US06194406B1
Combine methyl 2-methoxy-5-aminobenzoate (1.5 g, 8.3 mmol) and dichloromethane (25 mL). Cool in an ice bath. Add N,N-diisopropylethylamine (3.17 mL, 18.2 mmol) and methanesulfonyl chloride (0.71 mL, 9.1 mmol). After 30 minutes, warm to ambient temperature. After 4 hours, dilute the reaction mixture with dichloromethane and extract three times with a 1 M aqueous hydrochloric acid solution and then brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 3% methanol/dichloromethane/0.1% concentrated aqueous ammonia to give methyl 2-methoxy-5-methylsulfonamidobenzoate: mp; 82-83° C. Elemental Analysis calculated for C10H13NO5S: C, 46.32; H, 5.05; N, 5.40. Found C, 46.44; H, 4.96; N, 5.19.

reactant | methyl 2-methoxy-5-aminobenzoate | 8.3 mmol, 1.5 g | COC1=C(C(=O)OC)C=C(C=C1)N | C9H11NO3
reactant | N,N-diisopropylethylamine | 18.2 mmol, 3.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 9.1 mmol, 0.71 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanol dichloromethane | CO.ClCCl
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | methyl 2-methoxy-5-methylsulfonamidobenzoate | COC1=C(C(=O)OC)C=C(C=C1)NS(=O)(=O)C | C10H13NO5S
